US04976772
4-(4-((6-Fluoro-2-quinoxalinyl)oxy)phenoxy)-2-penten-1-ol
A mixture of 1.28 g (7 mmol) of 2-chloro-6-fluoroquinoxaline, 1.16 g (8.4 mmol) of anhydrous, powdered potassium carbonate, 1.55 g (8 mmol) of 4-(4-hydroxyphenoxy)-2-penten-1-ol and 20 ml of DMSO was warmed, under nitrogen, at 110° C. for a period of 2 hours. The mixture was cooled to room temperature, poured into dilute, aqueous HCl and extracted with two portions of ether. The combined organic layers were washed twice with 1 percent aqueous NaOH and with water, dried over MgSO4 and evaporated to dryness. The residue was purified by preparative scale HPLC, eluting with 3:1 hexane:acetone. After removal of solvent the resulting tan crystals were recrystallized from methylcyclohexane to give 1.05 g of crystals which were further purified by recrystallization from toluene to leave nearly colorless crystals, m.p. 109°-111° C. (Compound F)

reactant | 2-chloro-6-fluoroquinoxaline | 7 mmol, 1.28 g | ClC1=NC2=CC=C(C=C2N=C1)F | C8H4ClFN2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-hydroxyphenoxy)-2-penten-1-ol | 8 mmol, 1.55 g | OC1=CC=C(OC(C=CCO)C)C=C1 | C11H14O3
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | 4-(4-((6-Fluoro-2-quinoxalinyl)oxy)phenoxy)-2-penten-1-ol | 1.05 g | FC=1C=C2N=CC(=NC2=CC1)OC1=CC=C(OC(C=CCO)C)C=C1 | C19H17FN2O3
